US04656165
(a) (3S,4R)-3-(tert.-butyldimethylsilyloxymethyl)-4-triphenylmethylthio-azetidin-2-one
At 0°, 12.5 g of triphenylmethyl mercaptan are suspended in 70 ml of methanol and there is added in portions, over a period of 10 minutes, a total of 2.2 g of a 55% sodium hydride suspension in oil. There is then added dropwise, over a period of 30 minutes, an emulsion of 11.1 g of (3S,4R)-3-(tert.-butyldimethylsilyloxymethyl)-4-methylsulphonylazetidin-2-one (European Patent Application No. 82113) in 70 ml of acetone and 70 ml of water. After being stirred for 30 minutes at 0° and for 1 hour at room temperature, the reaction mixture is concentrated in a rotary evaporator, methylene chloride is added thereto, and the aqueous phase is separated off. The organic solution is washed with brine and dried over sodium sulphate. After concentration, the crude title compound is purified by chromatography over silica gel (eluant toluene/ethyl acetate 19:1). TLC (toluene/ethyl acetate 19:1): Rf =0.64; IR (methylene chloride): 3390, 1760, 1117, 835 cm-1.

reactant | triphenylmethyl mercaptan | 12.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)S | C19H16S
reactant | sodium hydride | [H-].[Na+]
reactant | (3S,4R)-3-(tert.-butyldimethylsilyloxymethyl)-4-methylsulphonylazetidin-2-one | 11.1 g | C(C)(C)(C)C([C@H]1C(N[C@@H]1S(=O)(=O)C)=O)O[SiH](C)C | C11H23NO4SSi
solvent | methanol | 70 ml | CO | CH4O
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | water | 70 ml | O | H2O
product | (3S,4R)-3-(tert.-butyldimethylsilyloxymethyl)-4-triphenylmethylthio-azetidin-2-one | C(C)(C)(C)C([C@H]1C(N[C@@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)O[SiH](C)C | C29H35NO2SSi
